US07816395B2
j) 2-Chloro-4-{[(3S)-1-methyl-5-oxo-3-pyrrolidinyl]amino}benzonitrile
A mixture of methyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-(methylamino)butanoate, hydrochloride (15.6 g., 49 mmole) and K2CO3 (325 mesh, 15.0 g, 110 mmole) in MeCN (120 mL) and MeOH (30 mL) was heated with stirring at 68° C. for 20 min. The solvents were evaporated, and the residue partitioned between EtOAc and H2O. The aqueous layer was extracted with EtOAc (2×), the combined EtOAc extracts were washed with H2O and brine, dried (MgSO4) and the solvent evaporated. The crude product (10.3 g) was triturated with Et2O, chilled and the solid filtered to give the titled compound (9.93 g, 81%). LC-MS (ES) m/e 250 (M+H)+.

reactant | methyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-(methylamino)butanoate, hydrochloride | 49 mmole, 15.6 g | Cl.ClC=1C=C(C=CC1C#N)N[C@@H](CC(=O)OC)CNC
reactant | K2CO3 | 110 mmole, 15.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeCN | 120 mL | CC#N | C2H3N
solvent | MeOH | 30 mL | CO | CH4O
product | 2-Chloro-4-{[(3S)-1-methyl-5-oxo-3-pyrrolidinyl]amino}benzonitrile | 9.93 g, 81% | ClC1=C(C#N)C=CC(=C1)N[C@@H]1CN(C(C1)=O)C | C12H12ClN3O
